.subckt OPAMP_TLV2372 inp inn out vcc vee
* Behavioral model for TLV2372
* GBW=3.0MHz, SR=2.4V/us, Vos=0.5mV, Aol=100dB
* Source: kicad-happy part library (Phase 2)
*
* Input stage
Rin inp inn 1T
Vos inp inp_os DC 0.0005
*
* Gain stage: Aol=100000, pole at 30.0Hz → GBW=3.0MHz
E1 int 0 inp_os inn 100000
R1 int out_int 1
C1 out_int 0 5.305m
*
* Output stage with rail clamping
* Rail-to-rail output
Dhigh out_int vcc_int DLIMIT
Dlow vee_int out_int DLIMIT
Vswh vcc vcc_int DC 0
Vswl vee_int vee DC 0
.model DLIMIT D(IS=1e-14 N=0.01)
Eout out 0 out_int 0 1
.ends OPAMP_TLV2372
